US05962458
A solution of methyl 2-methyl-pyridine-4-carboxylate (800 mg, 6 mmol) in ether (5 ml) was added to lithium aluminium hydride (340 mg, 9 mmol) in ether (10 ml) cooled to 5° C. and the mixture stirred for 2 hours. Water was added, the mixture was filtered through diatomaceous earth and the pad was washed through with ethyl acetate. The filtrate was extracted with ethyl acetate and the combined extracts were washed with brine, dried (MgSO4) and the solvent removed by evaporation to give 4-hydroxymethyl-2-methylpyridine (240 mg, 38%) as a yellow oil.

reactant | methyl 2-methyl-pyridine-4-carboxylate | 6 mmol, 800 mg | CC1=NC=CC(=C1)C(=O)OC | C8H9NO2
reactant | lithium aluminium hydride | 9 mmol, 340 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 4-hydroxymethyl-2-methylpyridine | 240 mg, 38% | OCC1=CC(=NC=C1)C | C7H9NO
